US07589116B2
To a solution of ethyl 1-(3-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (0.5 g, 1.37 mmol) and 2-chlorophenylboronic acid (0.28 g, 1.78 mmol) in n-propanol:water (2.35 ml:0.482 ml) mixture were added palladium acetate (0.005 g), triphenylphosphine (0.016 g) and 2N sodium carbonate (0.497 ml). The mixture was refluxed for 16 hours. A 2N NaOH (1.5 ml) was then added and refluxing continued for an additional 2 hours. The reaction was cooled, acidified with 10% citric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 0.402 g of 1-(3-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid.

reactant | ethyl 1-(3-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 1.37 mmol, 0.5 g | BrC=1C=C(C=CC1)N1N=C(C(=C1)C(=O)OCC)C(F)(F)F | C13H10BrF3N2O2
reactant | 2-chlorophenylboronic acid | 1.78 mmol, 0.28 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2N, 0.497 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 2N, 1.5 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | n-propanol | C(CC)O | C3H8O
catalyst | palladium acetate | 0.005 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.016 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 2.35 ml | O | H2O
product | 1-(3-bromophenyl)-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 0.402 g | BrC=1C=C(C=CC1)N1N=C(C(=C1)C(=O)O)C(F)(F)F | C11H6BrF3N2O2
